Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C@@:2]1([H:9])[C:6]([C:4]2=[C:5]([H:12])[C:3]2([H:10])[H:11])=[C:7]1[H:13])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],64.41588921090991
[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](/[N:2]=[C:3](\[O:4][H:11])[H:10])([H:7])([H:8])[H:9],55.021497630108
[H:7][H:8].[O:1]=[C:2]1[C:3]([H:6])=[N:4][C:5]1([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10],68.8119203644977
[C:1]([C@@:2]([O:3][H:12])([C@@:4]1([H:13])/[C:5](=[N:7]/[H:15])[O:6]1)[H:11])([H:8])([H:9])[H:10].[H:14][H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],28.648616636936005
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])([H:9])[H:13]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.670816889598896
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]12[O:5][C@@:6]2([O:7][H:8])[H:15],74.7764526313588
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])[H:15],75.1989732932628
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5]=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:15])[H:16],107.418899624061
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[N:2][H:11])([H:8])[H:10].[C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:9])([H:12])[H:13],83.2883952754503
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C-:4]#[O+:5].[C:1](=[C:2]([O:3][H:10])[H:9])([H:6])[H:7].[H:8][H:11],60.8310389639429
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3]/[C:4](=[C:5](/[O:6][H:12])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],54.46121494168001
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[C:5](#[N:6])[H:7].[N:3](=[C:4]([H:9])[H:10])[H:8].[O+:1]#[C-:2],64.1565625274161
[C:1]([C-:2]([N+:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])([H:11])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],6.26042789348071
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])[O:6][H:16],52.496582056261204
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:3]([C:2]([H:8])([H:9])[H:10])([O:4][H:11])[C:5](=[O:6])[H:12])[H:7],78.551788767596
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]1([H:10])=[C:4]([C:5](=[O:6])[H:14])[C:3]1([H:11])[H:12],94.06176651124392
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4][O:6][H:18])[H:10])([H:7])([H:8])[H:9].[C:5]([H:14])([H:15])([H:16])[H:17],71.46030642342029
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[c:3]1\[c:5]([N:4]([H:10])[H:11])[n:6]1)([H:7])([H:8])[H:9],72.48989585722691
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O:5][C@:6]1([H:15])[C:2]2([C:3]([H:11])([H:12])[C:4]2([H:13])[H:14])[O:7]1)([H:8])([H:9])[H:10],119.973780554596
[C:1]1([H:7])([H:8])[C-:2]=[C:3]([H:10])[C:4]2=[O+:5][C@@:6]12[H:12].[H:9][H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],63.214396318726315
[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C:1](/[N:2]=[C:3](/[O:4][H:8])[H:9])([H:5])([H:6])[H:7],41.0095432290654
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1](=[C:2]([O-:3])[C:4]#[O+:5])([H:8])[H:9].[H:10][H:11],61.610723214074795
[O:1]=[C:2]1[C@:3]2([H:8])[C:4]([H:9])([H:10])[N:5]=[C:6]([H:11])[N:7]12>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,16.4245547815077
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:13])=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],64.5166773036673
